US04652573
B. Isoindoline
A solution of 12.0 g (0.044 mol) of 2-(p-tolylsulfonyl) isoindoline, 12.0 g (0.13 mol) of phenol, 90 ml of 48% HBr, and 15 ml (0.201 mol) of propionic acid was refluxed for two hours. The mixture was cooled to room temperature, triturated with diethyl ether, and then added to a solution of 75 gm of sodium hydroxide in 200 ml of cold water. This mixture was extracted with diethyl ether and the combined ether extracts were washed with water. The organic phase was dried over magnesium sulfate, concentrated in vacuo and kugelrohr distilled to give 3.28 g (61%) of a white solid, m.p. 118°-127° C. NMR: (CDCl3) δ 2.2 (1H,s), 4.0 (4H, s), 6.95 (4H, s)

reactant | 2-(p-tolylsulfonyl) isoindoline | 0.044 mol, 12.0 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC2=CC=CC=C2C1)C | C15H15NO2S
reactant | phenol | 0.13 mol, 12.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | propionic acid | 0.201 mol, 15 ml | C(CC)(=O)O | C3H6O2
solvent | HBr | 90 ml | Br | BrH
product | Isoindoline | 3.28 g, 61% | C1NCC2=CC=CC=C12 | C8H9N
